US07615562B2
Step A: 2-Methylsulfanyl-4-(1H-pyrrol-3-yl)-pyrimidine
The title compound was prepared analogous to Step A of Method B, starting from [1-[tris(1-methylethyl)silyl]-1H-pyrrol-3-yl]-boronic acid and 4-chloro-2-methylsulfanyl-pyrimidine. Under the reaction conditions, the triisopropylsilyl protecting group was cleaved. Yield: 95%.

reactant | [1-[tris(1-methylethyl)silyl]-1H-pyrrol-3-yl]-boronic acid | CC(C)[Si](N1C=C(C=C1)B(O)O)(C(C)C)C(C)C | C13H26BNO2Si
reactant | 4-chloro-2-methylsulfanyl-pyrimidine | ClC1=NC(=NC=C1)SC | C5H5ClN2S
product | 2-Methylsulfanyl-4-(1H-pyrrol-3-yl)-pyrimidine | Yield: 95% | CSC1=NC=CC(=N1)C1=CNC=C1 | C9H9N3S
